US07544835B2
Ethyl 3-[3-(formyl)-4-methoxyphenyl]-2-isopropoxypropanoate
826 mg of Ethyl 3-[3-(hydroxymethyl)-4-methoxyphenyl]-2-isopropoxypropanoate was dissolved in 20 ml of dichloromethane, and 390 mg of N-methylmorpholine N-oxide, 1.4 g of molecular sieve 4A and 49 mg of tetrapropylammonium perruthenate were added, and the mixture was stirred at room temperature overnight. The reaction mixture was filtered through Celite, the filtrate was concentrated, and the residue was purified by silica gel column chromatography, to give 782 mg of the title compound in the 5:1→2:1 hexane-ethyl acetate fraction.

reactant | Ethyl 3-[3-(hydroxymethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | 826 mg | OCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C16H24O5
reactant | N-methylmorpholine N-oxide | 390 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 49 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | Ethyl 3-[3-(formyl)-4-methoxyphenyl]-2-isopropoxypropanoate | 782 mg | C(=O)C=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C16H22O5
